US07615651B2
Preparation of Intermediate (4-Bromo-2-chloro-benzyl)-(3-methyl-butyl)-amine (I-3b)
4-bromo-2-chloro-benzaldehyde (I-3a: 10.0 g, 46.0 mmol) was dissolved in methanol and treated with isoamylamine (4.78 g, 54.7 mmol). After stirring overnight at room temperature, sodium borohydride (5.2 g, 138 mmol) was added to the reaction mixture. After stirring for 1 hour at room temperature, the reaction mixture was quenched using concentrated (37%) hydrochloric acid and the volatiles were removed under reduced pressure. The residue was taken up in an aqueous 2 N sodium hydroxide solution and extracted with ethyl acetate (2 times). The combined organic phases were washed with a saturated aqueous sodium bicarbonate solution, dried over sodium sulfate, filtered and concentrated under reduced pressure to afford the title product (I-3b: 12.7 g)

reactant | 4-bromo-2-chloro-benzaldehyde | 46.0 mmol, 10.0 g | BrC1=CC(=C(C=O)C=C1)Cl | C7H4BrClO
reactant | isoamylamine | 54.7 mmol, 4.78 g | C(CC(C)C)N | C5H13N
reactant | sodium borohydride | 138 mmol, 5.2 g | [BH4-].[Na+]
solvent | methanol | CO | CH4O
product | (4-Bromo-2-chloro-benzyl)-(3-methyl-butyl)-amine | 12.7 g | BrC1=CC(=C(CNCCC(C)C)C=C1)Cl | C12H17BrClN
